US05696123
6.5 g (40 mmol) of 1-phenylpiperazine are dissolved in 40 ml of 1N-hydrochloric acid and mixed with a solution of 5.4 g (40 mmol) of 2-methoxybenzaldehyde in 60 ml of ether. The mixture is cooled to 0° C., a solution of 2.5 g (40 mmol) potassium cyanide in 30 ml of water is slowly added dropwise, with stirring, and the mixture is stirred overnight at ambient temperature. Then the organic phase is separated off (any product already precipitated is removed by suction filtration beforehand). The aqueous phase is washed three times with 50 ml of ether, the organic phases are combined and dried over sodium sulfate. The solvent is eliminated in vacuo and the residue is stirred with cyclohexane and suction filtered. 9.3 g of (2-Methoxyphenyl)-(4-phenylpiperazine-1-yl)-acetonitrile are obtained (76% yield) as an almost colourless solid.

reactant | 1-phenylpiperazine | 40 mmol, 6.5 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 2-methoxybenzaldehyde | 40 mmol, 5.4 g | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | potassium cyanide | 40 mmol, 2.5 g | [C-]#N.[K+]
solvent | hydrochloric acid | Cl | ClH
solvent | ether | 60 ml | CCOCC | C4H10O
solvent | water | 30 ml | O | H2O
product | (2-Methoxyphenyl)-(4-phenylpiperazine-1-yl)-acetonitrile | 9.3 g, 76% yield | COC1=C(C=CC=C1)C(C#N)N1CCN(CC1)C1=CC=CC=C1 | C19H21N3O
